US08420631B2
Dissolve 3-tert-butoxycarbonyl-7-chloro-6-[5-(cyclopentanecarbonyl-amino)-pentyl]-2,3,4,5-tetrahydro-1H-benzo[d]azepine (311 mg, 0.67 mmoles) in dichloromethane (10 mL) and add trifluoroacetic acid (3 mL). Stir the reaction for 1 h. Concentrate in vacuo and purify the residue by preparative HPLC to give 7-chloro-6-[5-(cyclopentanecarbonyl-amino)-pentyl]-2,3,4,5-tetrahydro-1H-benzo[d]azepine (135 mg) as an oil. Dissolve the oil in methanol (5 mL) and add (L)-tartaric acid (56 mg, 0.37 mmoles). Concentrate the mixture in vacuo and then add water (5 mL). The resulting solution is then freeze dried overnight to yield the title compound as a white solid (184 mg, 55%). MS (ES+) m/z=363.2 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-[5-(cyclopentanecarbonyl-amino)-pentyl]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.67 mmoles, 311 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CCCCCNC(=O)C2CCCC2 | C26H39ClN2O3
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 7-chloro-6-[5-(cyclopentanecarbonyl-amino)-pentyl]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 135 mg | ClC1=C(C2=C(CCNCC2)C=C1)CCCCCNC(=O)C1CCCC1 | C21H31ClN2O
